US07691882B2
3-(3-(3-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (3 mL) solution of (3-benzyloxy-phenyl)-acetohydroximoyl chloride (200 mg, 0.724 mmol) described in Manufacturing Example 61-1-4 and 3-ethynyl-pyridin-2-ylamine (55 mg, 0.462 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (252 μL, 1.81 mmol) at room temperature, which was stirred for 4 hours at 50° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=4:1-2:1) to obtain the title compound (58 mg, 22%).

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | (3-benzyloxy-phenyl)-acetohydroximoyl chloride | 0.724 mmol, 200 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC(=NO)Cl | C15H14ClNO2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.462 mmol, 55 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.81 mmol, 252 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(3-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 58 mg, 22% | C(C1=CC=CC=C1)OC=1C=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=CC1 | C22H19N3O2
